US08975254B2
(S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide
2-Methyl-1H-imidazole-4-carboxylic acid (1.364 g, 10.82 mmol) was suspended in N,N-Dimethyl formamide (25 ml). 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluorophosphate (0.342 g, 0.901 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.073 g, 10.82 mmol), DIPEA (3.14 ml, 18.03 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (2.5 g, 9.01 mmol) were rapidly added into the mixture, respectively. The reaction mixture was stirred at RT overnight. Next day water was slowly added and the mixture was extracted twice with DCM. The combined organic phases were extracted three times with water and the DCM-layer was evaporated. The product was crystallized from acetonitrile/water mixture and finally dried with vacuum at 40° C. Yield 71.6%. 1H-NMR (400 MHz; d6-DMSO): δ 1.08 (d, 3H), 2.31 (s, 3H), 4.27 (dd, 1H), 4.32-4.48 (m, 2H), 6.95 (d, 1H), 7.41 (s, 1H), 7.82 (d, 1H), 7.95-8.02 (m, 2H), 8.04 (d, 1H), 8.10 (m, 1H), 12.10 (bs, 1H).

reactant | 2-Methyl-1H-imidazole-4-carboxylic acid | 10.82 mmol, 1.364 g | CC=1NC=C(N1)C(=O)O | C5H6N2O2
reactant | 0-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluorophosphate | 0.901 mmol, 0.342 g | CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.82 mmol, 2.073 g | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 18.03 mmol, 3.14 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 9.01 mmol, 2.5 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | N,N-Dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)—N-{1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-2-methyl-1H-imidazole-4-carboxamide | Yield 71.6% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(NC1)C | C18H17ClN6O
